US05925792
1) Synthesis of Methyl 2-Chloro-3-oxopentanoate
A solution of 104 g (0.8 mol) of methyl 3-oxopentanoate (available from Wacker Chemical) in 500 ml of toluene was cooled to 0 to 5° C., and 108 g (0.8 mol) of sulfuryl chloride was added thereto dropwise, followed by stirring at room temperature overnight. Toluene was removed by evaporation to give 131.6 g (0.8 mol; yield: 100%) of the title compound.

reactant | methyl 3-oxopentanoate | 0.8 mol, 104 g | O=C(CC(=O)OC)CC | C6H10O3
reactant | sulfuryl chloride | 0.8 mol, 108 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-Chloro-3-oxopentanoate | yield: 100% | ClC(C(=O)OC)C(CC)=O | C6H9ClO3
